US06150524
6α-((4-Acetyloxy-butyl)-oxy)-4,5-epoxy-17-methyl-morphinan-3-ol acetate
6α-((4-Acetyloxy-butyl)-oxy)-4,5α-epoxy-17-methyl-morphinan-7-en-3-ol acetate (0.288 g, 0.63 mmol) in MeOH (30 ml) mixed with 10% Pd on 0.2 g) and then agitated for 1 hour at RT under H2 (1 bar over pressure). The catalyst is removed by filtering through a filter compound and the filtrate is concentrated by rotary evaporation. The residue obtained is purified by flash chromatography (20 g silica gel; mobile phase: CH2Cl2 /MeOH=9/1). The product is dissolved in glacial acetic acid and lyophilised.

reactant | 6α-((4-Acetyloxy-butyl)-oxy)-4,5α-epoxy-17-methyl-morphinan-7-en-3-ol acetate | 0.63 mmol, 0.288 g | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)OCCCCOC(C)=O | C25H31NO6
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 6α-((4-Acetyloxy-butyl)-oxy)-4,5-epoxy-17-methyl-morphinan-3-ol acetate | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4CC[C@@H](C5[C@@]4(C2C1O5)CCN3C)OCCCCOC(C)=O | C25H33NO6
